US06258824B1
40E 6-[Chloro-(5-chloro-thiophen-2-yl)-methyl]-4-(3-chloro-phenyl)-1-methyl-1H-quinolin-2-one
To a solution of 4-(3-chloro-phenyl)-6-[(5-chloro-thiophen-2-yl)-hydroxy-methyl]-1-methyl-1H-quinolin-2-one 49 mg, 0.12 mmol) in CH2Cl2 (0.5 ml) was added thionyl chloride dropwise. The reaction mixture was stirred at room temperature for four hours. Thionyl chloride was removed under reduced pressure. The crude chloride was taken up in toluene and concentrated under vacuum to give a yellow solid which was used without further purification.

reactant | 4-(3-chloro-phenyl)-6-[(5-chloro-thiophen-2-yl)-hydroxy-methyl]-1-methyl-1H-quinolin-2-one | 0.12 mmol, 49 mg | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(O)C=1SC(=CC1)Cl)C)=O | C21H15Cl2NO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 6-[Chloro-(5-chloro-thiophen-2-yl)-methyl]-4-(3-chloro-phenyl)-1-methyl-1H-quinolin-2-one | ClC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)C=1SC(=CC1)Cl | C21H14Cl3NOS
